US09382243B2
(4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl methanesulfonate
To a stirred solution of (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-ol (850 mg, 3.60 mmol) and DMAP (22 mg, 0.180 mmol) under nitrogen in anhydrous pyridine (10.0 mL) at 0° C. was added methanesulfonyl chloride (0.51 mL, 742 mg, 6.48 mmol) dropwise over 2 minutes. After stirring at 0° C. for 1.5 hours, the mixture was diluted with toluene (10 mL) and concentrated under reduced pressure. The resultant white solid was dissolved in DCM and filtered to remove solids. The filtrate was then chromatographed using a Biotage™ 50 g silica gel cartridge eluted with 0-50% EtOAc in 1:1 Hexane/DCM over 20 column volumes. The product fractions were combined and concentrated under reduced pressure to provide the title compound as a white solid. LC-MS: calculated for C14H18O6S 314.08, observed m/e: 315.06 (M+H)+ (Rt 1.56/4 min).

reactant | (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-ol | 3.60 mmol, 850 mg | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)C[C@@H](CO2)O | C13H16O4
reactant | methanesulfonyl chloride | 6.48 mmol, 0.51 mL, 742 mg | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | 0.180 mmol, 22 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 10.0 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl methanesulfonate | CS(=O)(=O)O[C@H]1C[C@@H]2OC(OC[C@H]2OC1)C1=CC=CC=C1 | C14H18O6S
